US06762180B1
(12) 4-[N-(2-dimethylamino-ethyl)-N-(benzylsulphonyl)-amino]-nitrobenzene
Prepared from 1-fluoro-4nitro-benzene, N-(2-dimethylamino-ethyl)-C-phenylmethanesulphonamide and sodium hydride as base

reactant | 1-fluoro-4nitro-benzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N-(2-dimethylamino-ethyl)-C-phenylmethanesulphonamide | CN(CCNS(=O)(=O)CC1=CC=CC=C1)C | C11H18N2O2S
reactant | sodium hydride | [H-].[Na+]
product | 4-[N-(2-dimethylamino-ethyl)-N-(benzylsulphonyl)-amino]-nitrobenzene | CN(CCN(S(=O)(=O)CC1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H21N3O4S
